US07517884B2
Tert-butyl-1-piperazine-carboxylate (740 mg, 3.05 mmol) and 4-bromo-2-fluoro-1-trifluoromethyl-benzene (530 mg. 2.85 mmol) were dissolved in anhydrous toluene (6 mL, degassed). In a separate, septum-equipped vial were placed tri(dibenzylideneacetone)dipalladium (0) (152 mg, 0.17 mmol), 1,3-bis(2,6-di-1-propylphenyl)imidazolium chloride (283 mg, 0.67 mmol) and sodium 1-butoxide (400 mg, 4.2 mmol). This “catalytic” vial was equipped with a magnetic stirbar and flushed with dry nitrogen. The reactant solution was next transferred to the “catalytic” vial and the mixture was stirred at 100° C. for 5 hours. After this period the mixture was combined with 20 mL of hexane/EtOAc (2:1) and was passed through a pad of Celite. The resulting filtrate was concentrated and purified using silica gel chromatography (0-20% EtOAc/Hexane) to yield 853 mg (86%) of 4-(3-Fluoro-4-trifluoromethyl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester as a yellow residue. 1H NMR (400 MHz, CDCl3) δ 7.44-7.40 (m, 1H), 6.65-6.58 (m, 2H), 3.59-3.56 (m, 4H), 3.27-3.25 (m, 4H), 1.49 (s, 9H).

reactant | Tert-butyl-1-piperazine-carboxylate | 3.05 mmol, 740 mg | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | 4-bromo-2-fluoro-1-trifluoromethyl-benzene | 2.85 mmol, 530 mg | BrC1=CC(=C(C=C1)C(F)(F)F)F | C7H3BrF4
reactant | 1,3-bis(2,6-di-1-propylphenyl)imidazolium chloride | 0.67 mmol, 283 mg | [Cl-].C(CC)C1=C(C(=CC=C1)CCC)[N+]1=CN(C=C1)C1=C(C=CC=C1CCC)CCC
reactant | sodium 1-butoxide | 4.2 mmol, 400 mg | CCCC[O-].[Na+]
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(3-Fluoro-4-trifluoromethyl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 853 mg, 86% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=C(C=C1)C(F)(F)F)F | C16H20F4N2O2
